US05756784
2,14-Dimethyl-8-hydroxy-2,6,10,14-tetrazapentadecane 2HCl (30 g, 0.09 mol) synthesized in accordance with the method described in DE2616411, triethylamine (62 ml, 0.45 mol), and methylene chloride (600 ml) were placed in a 1-liter four-necked round flask, and the mixture was cooled on ice. Hexanoylchloride (36.3 g, 0.27 mol) was added dropwise over 3 hours to the flask while the contents of the flask were stirred under nitrogen. The mixture was stirred for 24 more hours at room temperature. The solid which precipitated was removed by filtration, and the solvent was removed under reduced pressure. Ethanol (600 ml) and an aqueous 4N NaOH solution (225 ml, 0.9 mol) were added to the residue and the mixture was stirred at 40° C. for 3 hours. The solvent was removed under reduced pressure. Methylene chloride was added and extraction was performed. After methylene chloride was removed from the organic phase under reduced pressure, the residue was purified by column chromatography (packed with Kieselgel 60 (product of Merck), eluent:chloroform/methanol=7:1 (v/v)) to obtain 20 g of 4,8-bis(1-oxohexyl)-1,11-di(dimethylamino)-6-hydroxy-4,8-diazaundecane. Yield: 50 wt %.

reactant | 2,14-Dimethyl-8-hydroxy-2,6,10,14-tetrazapentadecane 2HCl | 0.09 mol, 30 g | Cl.Cl.CN(C)CCCNCC(CNCCCN(C)C)O
reactant | triethylamine | 0.45 mol, 62 ml | C(C)N(CC)CC | C6H15N
reactant | Hexanoylchloride | 0.27 mol, 36.3 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | NaOH | 0.9 mol, 4N, 225 ml | [OH-].[Na+]
solvent | Ethanol | 600 ml | C(C)O | C2H6O
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 4,8-bis(1-oxohexyl)-1,11-di(dimethylamino)-6-hydroxy-4,8-diazaundecane | 20 g | O=C(CCCCC)N(CCCN(C)C)CC(CN(CCCN(C)C)C(CCCCC)=O)O | C25H52N4O3
